US06489485B2
A solution of 3-cyclopentyl-2-[4-(2-thiophen-2-yl-acetylamino)-phenyl]-propionic acid (76.6 mg, 0.21 mmol), benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (142.0 mg, 0.32 mmol) and 2-aminothiazole (32.1 mg, 0.32 mmol) in methylene chloride (1 mL) at 25° C. was treated with triethylamine (0.9 mL, 0.64 mmol). The reaction mixture was stirred at 25° C. for 16 h. This mixture was then poured into water (50 mL) and extracted with methylene chloride (2×25 mL). The combined organic extracts were washed with a 1N aqueous sodium hydroxide solution (1×25 mL), a 1N aqueous hydrochloric acid solution (1×25 mL), water (1×25 mL), and a saturated aqueous sodium chloride solution (3×25 mL). The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 60/40 hexanes/ethyl acetate) afforded 3-cyclopentyl-N-thiazol-2-yl-2-[4-(2-thiophen-2-yl-acetylamino)-phenyl]-propionamide (82.7 mg, 87.8%) as a tan solid: mp 220-221° C.; EI-HRMS m/e calcd for C23H25N3O2S2 (M+) 4391388, found 439.1379.

reactant | 3-cyclopentyl-2-[4-(2-thiophen-2-yl-acetylamino)-phenyl]-propionic acid | 0.21 mmol, 76.6 mg | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)NC(CC=1SC=CC1)=O | C20H23NO3S
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.32 mmol, 142.0 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 2-aminothiazole | 0.32 mmol, 32.1 mg | NC=1SC=CN1 | C3H4N2S
reactant | triethylamine | 0.64 mmol, 0.9 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | 3-cyclopentyl-N-thiazol-2-yl-2-[4-(2-thiophen-2-yl-acetylamino)-phenyl]-propionamide | 82.7 mg, 87.8% | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=CC=C(C=C1)NC(CC=1SC=CC1)=O | C23H25N3O2S2
